US07585885B2
N-Methyl-N-propyl-5-pyridin-4-yl-isophthalamic acid benzyl ester
Add pyridine-4-boronic acid (2.361 g, 19.21 mmol) and 2 N sodium carbonate (19.21 mL, 38.42 mmol) to a solution of 5-iodo-N-methyl-N-propyl-isophthalamic acid benzyl ester (6.000 g, 13.72 mmol)in ethylene glycol dimethyl ether (206 mL) under nitrogen at room temperature. Add tetrakis(triphenylphosphine)palladium (0) (0.634 g, 0.549 mmol) and reflux for 20 h. Cool to room temperature and concentrate. Add ethyl acetate, separate the organic layer and extract the aqueous layer with ethyl acetate (4×). Wash the combined organic layers with H2O, saturated aqueous sodium chloride, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with ethyl acetate) to give the title compound (56%).

reactant | pyridine-4-boronic acid | 19.21 mmol, 2.361 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | sodium carbonate | 38.42 mmol, 2 N, 19.21 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-iodo-N-methyl-N-propyl-isophthalamic acid benzyl ester | 13.72 mmol, 6.000 g | C(C1=CC=CC=C1)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)I)=O | C19H20INO3
solvent | ethylene glycol dimethyl ether | 206 mL | COCCOC | C4H10O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.549 mmol, 0.634 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-Methyl-N-propyl-5-pyridin-4-yl-isophthalamic acid benzyl ester | 56% | C(C1=CC=CC=C1)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C1=CC=NC=C1)=O | C24H24N2O3
